US04039543
4.0 G. of 5'-[(2,4-diamino-5-pyrimidinyl)methyl]3'-dimethylamino-2'-methoxy-N-methylacetanilide (prepared as described in the first paragraph of Example 2) and 100 ml. of 1-N hydrochloric acid were boiled under reflux for 2 hours. After neutralization and evaporation in vacuo, purification of the residue over silica gel with methylene chloride/propanol (8:2) and recrystallization from ethanol, there was obtained 2,4-diamino-5-[3-dimethylamino-4-methoxy-5-(methylamino)benzyl]pyrimidine, having a melting point of 183° C.

reactant | 5'-[(2,4-diamino-5-pyrimidinyl)methyl]3'-dimethylamino-2'-methoxy-N-methylacetanilide | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(N(C(C)=O)C)C1)OC)N(C)C | C17H24N6O2
reactant | hydrochloric acid | Cl | ClH
product | 2,4-diamino-5-[3-dimethylamino-4-methoxy-5-(methylamino)benzyl]pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)NC)OC)N(C)C | C15H22N6O
